Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___ vaccination
 
Attending: ___
 
Chief Complaint:
R frontal strokes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ (BID #: ___ is a ___ year old woman (male
to female transgender) for him a neurology consult is requested
due to concern for stroke.

She was in her usual state of health at 11 ___, when she went to
bed last night.  She woke up this morning at around 5 AM and did
some reading on her iPad.  At that time, she did not notice any
problems with her speech or asymmetry of her face, but did not
speak to anyone or look at herself in the mirror.  She went back
to sleep for a few hours.

When she awoke again at 8:45 AM, her roommate noted that her
speech seemed slurred.  ___ also agrees that her speech was
slurred.  She denies any paraphasias or word finding difficulty. 

She states that her tongue did not seem coordinated.  She also
noticed the gradual onset of a pins and needle sensation on the
entire left side of her face, more notable in the V2 and V3
distributions.  This came on over the whole face, and there was
no ___ with regards to the location of the pins and needles. 

When she looked in the mirror, she also noted that the left side
of her face seemed to activate slower when she smiled.

She called a friend on the phone at 9:30 AM, and felt like her
speech was still slurred, although better than before.  She did
not have a headache during this time.  Due to persistent 
symptoms
that worried her for stroke, she presented to the ED.

On my interview in the ED, at around 10:30 am, she states that
her speech and abnormal facial sensations are improving, but not
yet back to normal.  She subjectively feels that the left side 
of
her face is still slower to activate, although has not checked
this in a mere.

Notably, she does have a history of migraine with aura.  Her
usual aura is of scintillating scotomas in one or both eyes. 
This is followed ___ minutes later by headache.  She 
experiences
migraines about once per month.  She has had headaches in the
past with an aura of facial paresthesias, although this is not
occurred since her ___ to ___.  She also gets frequent dull,
aching headaches without any aura.  These usually occur 2 times
per week.  She has never had any difficulty with her speech as a
symptom of migraine.

 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysphagia, lightheadedness, vertigo, tinnitus
or hearing difficulty. Denies difficulties producing or
comprehending speech. Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 

 
Past Medical History:
Migraine headaches
 
Social History:
___
Family History:
Father had a stroke in his ___, which she describes as severe. 
Also had cardiomyopathy.
Paternal grandmother had stroke in her ___
Mother had breast cancer 
 
Physical Exam:
Physical Exam:
Vitals: T: 98.8 P: 78 R: 16  BP: 170/102  SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch. Reports decreased
sensation to pinprick (70-80% of normal in V2-3, and 90% normal
in V1) on left face.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     5    5    5      5     5    5       5        5     5    

5   
R  5     5    5   5       5     5   5        5        5     5    

5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

DISCHARGE PHYSICAL EXAM
========================
Temperature: 98.8 PO Blood Pressure: 128/81 Heart rate: 68 
Respiratory rate: 18 Oxygen saturation: 95% O2 delivery: RA 
  General: Awake, cooperative, NAD.
  HEENT: NC/AT, no scleral icterus, MMM, no lesions in 
oropharynx
  Neck: Supple, no carotid bruits. No nuchal rigidity
  Pulmonary: Normal work of breathing
  Cardiac: RRR
  Abdomen: soft, NT/ND
  Extremities: No ___ edema, WWP
  Skin: no rashes or lesions 

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Speech
was not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
  II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
  V: Slight delay of facial sensation on L compared to R.
  VII: No facial droop, facial musculature symmetric.
  VIII: Hearing intact to finger-rub bilaterally.
  IX, X: Palate elevates symmetrically.
  XI: ___ strength in trapezii and SCM bilaterally.
  XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
  No adventitious movements, such as tremor, noted. No asterixis
noted.

    Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
  L  5    ___   ___  5   5    5  5     5     5   5

  R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick. No extinction to
DSS.

-DTRs: ___

 
___ Results:
ADMISSION LABS
==============
___ 10:23AM BLOOD WBC-9.0 RBC-5.52 Hgb-14.6 Hct-47.2 MCV-86 
MCH-26.4 MCHC-30.9* RDW-14.1 RDWSD-43.8 Plt ___
___ 10:23AM BLOOD Neuts-55.5 ___ Monos-8.3 Eos-1.6 
Baso-1.1* Im ___ AbsNeut-4.99 AbsLymp-2.96 AbsMono-0.75 
AbsEos-0.14 AbsBaso-0.10*
___ 10:23AM BLOOD ___ PTT-26.9 ___
___ 11:00AM BLOOD Glucose-90 UreaN-14 Creat-0.8 Na-139 
K-4.7 Cl-101 HCO3-25 AnGap-13
___ 11:00AM BLOOD Albumin-4.1 Cholest-162
___ 04:45AM BLOOD Calcium-9.3 Phos-3.6 Mg-1.9 Iron-75
___ 04:45AM BLOOD calTIBC-369 TRF-284
___ 11:25AM BLOOD %HbA1c-5.8 eAG-120
___ 11:00AM BLOOD Triglyc-94 HDL-60 CHOL/HD-2.7 LDLcalc-83
___ 04:45AM BLOOD TSH-1.7

___ 10:27AM BLOOD Lactate-2.3*
___ 11:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:58AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:58AM URINE Color-Straw Appear-Clear Sp ___

PERTINENT INTERVAL LABS
=======================
___ 04:45AM BLOOD D-Dimer-257
___ 04:45AM BLOOD CRP-3.4
___ 04:45AM BLOOD Free T4-1.0
___ 05:28AM BLOOD Lactate-2.6*
___ 04:35AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 04:35AM BLOOD Beta-2-Glycoprotein 1 Antibodies IgG-PND

IMAGING
=======
___ CTA HEAD AND NECK
  
IMPRESSION:   
1. Normal head and neck CTA. 

___ MRI WO CONTRAST  
IMPRESSION:  
1. Several small right frontal foci likely representing acute 
infarction. 
2. Likely small right occipital chronic infarction. 
3. No evidence of hemorrhage. 

___ TTE
Conclusions   
 The left atrial volume index is normal. The interatrial septum 
is mildly dynamic. No atrial septal defect is seen on color flow 
Doppler, but there is early appearance of agitated 
saline/microbubbles in the left atrium/ventricle at rest most 
consistent with an atrial septal defect or stretched patent 
foramen ovale (though a very proximal intrapulmonary shunt 
cannot be fully excluded). The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). No 
masses or thrombi are seen in the left ventricle. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. The end-diastolic 
pulmonic regurgitation velocity is increased suggesting 
pulmonary artery diastolic hypertension. There is no pericardial 
effusion. 

 IMPRESSION: Early appearance of agitated saline in the left 
atrium at rest most c/w a patent foramen ovale. Normal 
biventricular cavity sizes with preserved regional and global 
biventricular systolic function.

 If clinically indicated, a TEE would be better able to define 
the interatrial septum.  

___ LENIS 
IMPRESSION:    
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

 
Brief Hospital Course:
Ms ___ is a ___ year old woman (male to female transgender) 
on hormonal tx with a history of migraine with aura (usually 
scintillating scotomas) who presented with slurred speech, pins 
and needles in left V1-V3, and subjective facial droop on 
admission, found to have new R frontal strokes.

#R frontal strokes
Ms ___ is a ___ year old woman (male to female transgender) 
on hormonal tx with a history of migraine with aura (usually 
scintillating scotomas) who presented with slurred speech, pins 
and needles in left V1-V3, and subjective facial droop on 
admission, found to have new R frontal strokes on MRI wo 
contrast. Most likely etiology of stroke is likely cardioembolic 
iso estradiol use vs hypercoagulability. NCHCT with no evidence 
of bleed. CTA head and neck w no evidence of dissection or 
thrombosis. TTE showed early appearance of agitated saline in 
the left atrium at rest most c/w a patent foramen ovale but was 
otherwise normal. LENIs did not show any evidence of DVT. Beta 2 
macroglobulin ab, cardiolipin ab and lupus anticoagulant were 
pending at discharge. Stroke risk factors were LDL 83, HbA1C 
5.8%. Patient was started on aspirin and atorvastatin. Patient 
was also educated about the increased risk of stroke while on 
hormonal tx with estradiol and was recommended follow up at 
___ clinic for further evaluation. She 
reported that she was taking 1mg ___ of a 2mg tab) twice daily, 
which is the max recommended dose. Endocrinology was contacted 
who agreed that there is increased risk, but did suggest that if 
patient were willing to accept risk of stroke on a lower dose, 
she could start at same dose at initiation.
From the stroke stand point I clearly informed the patient that 
estrogen increases the risk of stroke and since she had a stroke 
while of estrogen it would be ideal if she stop taking estrogen. 
The patient expresses her desire to think about it, but  and 
most likely she would try different formulation or lower dose. 

#Lactic acidosis
Patient had lactate of 2.3 at admission with repeat lactate of 
2.6. No evidence of infection given negative UA, CXR and UCx and 
BCx with NGTD or clinical signs of hypoperfusion.

Transitional Issues
- F/u with neurology
- F/u with ___ clinic for hypercoagulability 
work up
- F/u with PCP/endocrinology re: estradiol and elevated lactate

 AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack 
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No 
 4. LDL documented? (x) Yes (LDL = 83) - () No 
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL if LDL >70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL] 
 6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate] 
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No 
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 

35 minutes were spent on discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 150 mg PO DAILY 
2. Estradiol 1 mg PO BID 
3. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
3.  Estradiol 1 mg PO BID  
4.  Finasteride 5 mg PO DAILY  
5.  Spironolactone 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R frontal ischemic strokes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 You were hospitalized due to symptoms of slurred speech, pins 
and needles sensation on face, and subjective facial droop 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - Estrogen use 
 - High cholesterol

While we recommend stopping estrogen completely to reduce your 
risk of stroke, if you are okay with accepting some risk, you 
may resume your prior lower dose of estradiol that you were 
taking ___ year prior.

 We are changing your medications as follows:  
 - Aspirin 81 mg DAILY
 - Atorvastatin 20 mg 

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___